US07851489B2
4-Iodo-2-oxo-1,2-dihydropyridine-3-carbaldehyde (16.0 g, 64.3 mmol), 4-fluorophenylboronic acid (26.8 g, 193 mmol, Aldrich), copper(II) acetate (23.4 g, 129 mmol, Aldrich), and myristic acid (58.7 g, 257 mmol, Aldrich) were stirred together in 800 mL of toluene. To this solution was added 2,6-lutidine (60 mL, 514 mmol, Aldrich) and the reaction was stirred vigorously for 1 day. An additional 5 g of 4-fluorophenylboronic acid was added and the reaction was stirred vigorously for an additional 3 days. The reaction mixture was concentrated and then suspended in 10% methanol/ethyl acetate. Celite® was added and the mixture was stirred for 5 minutes. Next the mixture was filtered through a plug of Celite®, concentrated, and suspended in ethyl acetate and water. The mixture was filtered through Celite® again to remove additional copper that had precipitated out, washing well with ethyl acetate. The filtrate was washed with 1N aqueous HCl, dried over sodium sulfate, filtered, and concentrated under vacuum. The resulting solid was triturated with ethyl acetate to yield 9.25 g (42%) of 1-(4-fluorophenyl)-4-iodo-2-oxo-1,2-dihydropyridine-3-carbaldehyde as a yellow solid. The filtrate was concentrated in vacuo and the remaining solid was triturated again with ethyl acetate to yield an additional 5.75 g (68% total yield) of the desired product as a yellow solid. 1H NMR (DMSO-d6) δ 9.57 (s, 1H), 7.68 (d, 1H, J=7.2 Hz), 7.58-7.54 (m, 2H), 7.40 (t, 2H, J=8.8 Hz), 7.02 (d, 1H, J=7.2 Hz); MS (ESI+) m/z 344.13 (M+H)+.

reactant | 4-Iodo-2-oxo-1,2-dihydropyridine-3-carbaldehyde | 64.3 mmol, 16.0 g | IC1=C(C(NC=C1)=O)C=O | C6H4INO2
reactant | 4-fluorophenylboronic acid | 193 mmol, 26.8 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | myristic acid | 257 mmol, 58.7 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | 2,6-lutidine | 514 mmol, 60 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 4-fluorophenylboronic acid | 5 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(II) acetate | 129 mmol, 23.4 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(4-fluorophenyl)-4-iodo-2-oxo-1,2-dihydropyridine-3-carbaldehyde | 9.25 g, 42% | FC1=CC=C(C=C1)N1C(C(=C(C=C1)I)C=O)=O | C12H7FINO2
